US07776857B2
A mixture of Meldrum's acid (34.8 g, 0.242 mol) and trimethyl orthoformate (285 mL, 2.05 mol) was heated to 105° C. for 2 h. To the solution 6-methoxypyridin-3-amine (30 g, 0.242 mol) was added and continued the stirring overnight at the same temperature. The mixture was allowed to cool to RT and diluted with hexane. The solid precipitated was filtered and washed with hexane to afford 5-((6-methoxypyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione as a pale yellow solid.

reactant | Meldrum's acid | 0.242 mol, 34.8 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | trimethyl orthoformate | 2.05 mol, 285 mL | C(OC)(OC)OC | C4H10O3
reactant | 6-methoxypyridin-3-amine | 0.242 mol, 30 g | COC1=CC=C(C=N1)N | C6H8N2O
solvent | hexane | CCCCCC | C6H14
product | 5-((6-methoxypyridin-3-ylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | COC1=CC=C(C=N1)NC=C1C(OC(OC1=O)(C)C)=O | C13H14N2O5
